US09079865B2
To a solution of (E)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid (0.75 g,) in EtOAc (25 mL) and THF (12.5 mL) was added a solution of 2-hydrazinopyrazine (0.23 g) in 12 mL THF at room temperature. T3P (50% in ethyl acetate, 1.52 mL) and DIPEA (1.46 mL) were added dropwise and simultaneously and the reaction mixture was stirred for 30 min at room temperature before being quenched with ice-cold water and extracted with EtOAc (3×25 mL). The combined organic layers were washed with brine, dried over anhydrous Na2SO4 and concentrated under reduced pressure (35° C., 20 mmHg), affording 0.698 g of a crude solid. Trituration first with petroleum ether then with Et2O afforded 275 mg (yield: 29%) (E)-3-(3-(3,5-bis(trifluoromethyl) phenyl)-1H-1,2,4-triazol-1-yl)-N′-(pyrazin-2-yl)acrylohydrazide. 1H NMR (400 MHz, DMSO-d6) δ, 10.3 (s, 1H), 9.15 (s, 2H), 8.59 (s, 2H), 8.30-8.26 (d, J=14.8 Hz, 1H), 8.13 (s, 1H), 8.06-8.07 (m, 1H), 6.98-6.95 (d, J=13.4 Hz, 1H); LCMS for C7H12F6N7O [M+H]+ 443.31. found 444.19 (RT 2.625 min, purity: 99.06%).

reactant | (E)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid | 0.75 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)/C=C/C(=O)O)(F)F | C13H7F6N3O2
reactant | 2-hydrazinopyrazine | 0.23 g | N(N)C1=NC=CN=C1 | C4H6N4
reactant | T3P | 1.52 mL | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | DIPEA | 1.46 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
solvent | THF | 12.5 mL | C1CCOC1 | C4H8O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | Et2O | CCOCC | C4H10O
product | (E)-3-(3-(3,5-bis(trifluoromethyl) phenyl)-1H-1,2,4-triazol-1-yl)-N′-(pyrazin-2-yl)acrylohydrazide | 275 mg, yield: 29% | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)/C=C/C(=O)NNC1=NC=CN=C1)(F)F | C17H11F6N7O
